US08039472B2
To a solution of 4-amino-4-cyano-piperidine-1-carboxylic acid tert-butyl ester (11.5 g, 51.0 mmol) in pyridine (20 ml) at 0° C. is added trifluoroacetic anhydride (11.0 ml) slowly and the reaction mixture is stirred at 0° C. for 4 h. The reaction mixture is diluted with DCM, washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue obtained is dissolved in DCM and re-precipitated by adding petroleum ether. The supernatant solvent mixture is decanted and the product is washed again with petroleum ether and dried under vacuum to afford 4-Cyano-4-(2,2,2-trifluoro-acetylamino)-piperidine-1-carboxylic acid tert-butyl ester as an oil; 1H NMR (d6-DMSO): 1.40 (9H, s), 1.81-1.88 (2H, m), 2.26-2.32 (2H, m), 2.99-3.15 (2H, m), 3.79-3.82 (2H, m), 10.1 (1H, s).

reactant | 4-amino-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 51.0 mmol, 11.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)N | C11H19N3O2
reactant | trifluoroacetic anhydride | 11.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-Cyano-4-(2,2,2-trifluoro-acetylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(C(F)(F)F)=O)C#N | C13H18F3N3O3
